US08431573B2
4-(4-Formylpiperazin-1-yl)-6-oxo-2-(3-thienylmethyl)-1,6-dihydropyrimidine-5-carbonitrile
11.3 mg (0.17 mmol) of imidazole are introduced together with 33.6 mg (0.33 mmol) of triethylamine and 7.64 mg (0.17 mmol) of formic acid into 5 ml of dichloromethane under an argon atmosphere and cooled to 0° C. Then a solution of 21.1 mg (0.17 mmol) of oxalyl chloride in dichloromethane is added dropwise, and the mixture is then stirred for 15 min. 50 mg (0.17 mmol) of 6-oxo-4-(piperazin-1-yl)-2-(3-thienylmethyl)-1,6-dihydropyrimidine-5-carbonitrile are added, and the mixture is stirred at RT overnight. It is then washed with 1 N potassium bisulphate solution, the dichloromethane phase is dried over sodium sulphate and concentrated, and the residue is flash-chromatographed on silica gel (mobile phase: dichloromethane/methanol 100:1, 80:1, 60:1). 16 mg (29% of theory) of the title compound are obtained.

reactant | imidazole | 0.17 mmol, 11.3 mg | N1C=NC=C1 | C3H4N2
reactant | triethylamine | 0.33 mmol, 33.6 mg | C(C)N(CC)CC | C6H15N
reactant | formic acid | 0.17 mmol, 7.64 mg | C(=O)O | CH2O2
reactant | oxalyl chloride | 0.17 mmol, 21.1 mg | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 6-oxo-4-(piperazin-1-yl)-2-(3-thienylmethyl)-1,6-dihydropyrimidine-5-carbonitrile | 0.17 mmol, 50 mg | O=C1C(=C(N=C(N1)CC1=CSC=C1)N1CCNCC1)C#N | C14H15N5OS
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 4-(4-Formylpiperazin-1-yl)-6-oxo-2-(3-thienylmethyl)-1,6-dihydropyrimidine-5-carbonitrile | C(=O)N1CCN(CC1)C=1N=C(NC(C1C#N)=O)CC1=CSC=C1 | C15H15N5O2S
